Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered Mental Status
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ year old female pt w/ hx of NPH w/ VP shunt, DVT, new pAfib 
presenting as a transfer from ___ for AMS. Per 
daughter, patient's rehab facility staff noticed she was more 
lethargic and confused than usual x ___ 
pt had a CT head which did not show any issues with the VP 
shunt. She was also found to have a UTI. She was given 1g of 
CTX. Per family request, pt wanted transfer to ___ for further 
shunt eval. Neurosurgery evaluated the patient in ED and did not 
feel that further work up would be needed as inpatient and 
offered second opinion as an outpatient. Pt currently denies any 
dysuria. No fevers, no chills. Pt is disoriented to place and 
person, not year. 

Most of the history is obtained from daughter ___. Patient had 
been in normal state of mind up until ___ when she 
developed worsening urinary incontinence and ambulation (but no 
mental status changes) and was diagnosed with NPH. At the time, 
patient was independent, driving, caring for her grandchildren, 
etc. VP shunt was placed in ___ and patient did very 
well, incontinence and cerebellar issues improved. However on 
___, patient was found down in her house in puddle of 
urine and with altered mental status. Since then, patient has 
remained confused and somnolent and no longer independent. She 
has been living in various rehabilitation facilities and 
returning to ___ clinic to change her VP shunt settings 
in hope that this will improve her mental status. Latest VP 
setting = 4. However, at her last visit with Dr. ___ 
symptoms were due to dementia and not due to the shunt. 

Currently, patient is more lethargic than her baseline, which is 
why the rehabilitation facility asked her to go to hospital to 
be evaluated. Family wanted a second opinion about her mental 
status so went to ___ but they were full so was sent to 
___. 

ROS: Has had 10lb weight loss since last month. Daughter notes 
patient has not been eating much due to her mental status 
changes. No fevers, chills, sweats. 

In the ED, initial vitals:  98.2  82   132/84  16  98% RA.  
 - Exam notable for: Disoriented to place and time.  
 - Labs notable for:  UA 169 WBCs, large leuks, few bacteria. 
lactate 1.2
 - Imaging notable for:  
 - Patient given: IV CTX ordered, but not received

On arrival to the floor, patient denies chest pain, shortness of 
breath, dysuria, abdominal pain. Is able to tell who is at 
bedside (daughter and sister), her full name, laughs 
appropriately, "hospital" but not year or name of hospital.
 
Past Medical History:
Osteoporosis
Hysterectomy - unclear reasons
NPH s/p VP shunt ___ 
Pericarditis 
DVT
Parxysmal Atrial fibrillation 
 
Social History:
___
Family History:
Mother - ___ at ___
Father - HTN, MI, prostate cancer
Siblings ___ - MIs; no dementia, no seizures
 
Physical Exam:
ADMISSION EXAM
================
Vitals: 98.2   132 / 41   76   18   99 RA 
General: Somnolent, however arousable. AAOx person and 
"hospital" no acute distress. Resting comfortably.   
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, JVP 
not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, systolic murmur 
II/VI
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Without rashes or lesions  
Neuro: CNI-XII intact (did not eval optic disc). Visual defect 
on left peripheral vision. ___ upper and lower strength. Intact 
gross sensation. 

DISCHARGE EXAM
=================
Vitals: Temperature: 97.9  BP:113/60 HR:62 RR: 18  SaO2:97 RA 
General: Somnolent, however arousable. AAOx person only, denotes 
in ___, and denies any knowledge of the date. 
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, JVP 
not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: regular rate and rhythm, normal S1 + S2, systolic murmur 
II/VI
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Without rashes or lesions  
Neuro: CNI-XII intact (did not eval optic disc). Left peripheral 
visual defect. ___ upper and lower strength. Intact gross 
sensation.
 
Pertinent Results:
ADMISSION LABS
===============
___ 05:00AM URINE  RBC-11* WBC-169* BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 05:00AM   WBC-5.8 RBC-3.44* HGB-10.6* HCT-33.3* MCV-97 
MCH-30.8 MCHC-31.8* RDW-13.2 RDWSD-46.4*
___ 05:00AM   TSH-0.70
___ 05:00AM   VIT B12-611 FOLATE-17.5
___ 05:00AM   GLUCOSE-89 UREA N-21* CREAT-0.9 SODIUM-145 
POTASSIUM-3.6 CHLORIDE-109* TOTAL CO2-25 ANION GAP-15
___ 05:17AM   LACTATE-1.2

IMAGES/STUDIES
===============
CTA Head & Neck:
Wet Read by ___ on FRI ___ 8:09 ___
1. No stenosis, occlusion, dissection or aneurysm greater than 3 
mm in the
great vessels of the head or neck.
2. No intracranial hemorrhage or loss of gray-white 
differentiation to suggest
infarction.
3. Mild pulmonary edema is present in the partially imaged lung 
apices.
4. Trace fluid within the left mastoid air cells is unchanged 
from multiple
prior studies.
5. Final read pending 3D reformations.

CXR:
IMPRESSION: 
Upper zone redistribution and mild vascular plethora could 
reflect mild CHF. Given diffusely increased interstitial 
markings, the possibility of an
interstitial process cannot be entirely excluded, but the 
appearance is
similar to ___ focal pneumonic infiltrate or 
effusion.

Routine EEG:
No epileptic forms and slow delta waves consistent with 
encephalopathy. 

DISCHARGE LABS
=================
___ 07:05AM BLOOD WBC-5.1 RBC-3.40* Hgb-10.5* Hct-31.7* 
MCV-93 MCH-30.9 MCHC-33.1 RDW-13.3 RDWSD-45.0 Plt ___
___ 07:05AM BLOOD Glucose-85 UreaN-13 Creat-0.9 Na-146* 
K-4.1 Cl-108 HCO3-26 AnGap-16
___ 07:05AM BLOOD Calcium-9.3 Phos-3.5 Mg-2.0
___ 07:35AM BLOOD VitB12-591 Folate-15.9

MICRO:
=======
Urine culture at ___ with Citrobacter Freundii 
Urinary Tract Infection susceptible to Bactrim. 

PERTINENT LABS
=================
___ 03:10PM BLOOD COPPER (SERUM)-PND
___ 03:10PM BLOOD VITAMIN B6 (PYRIDOXINE)-PND
___ 03:10PM BLOOD VITAMIN B1-WHOLE BLOOD-PND
___:10PM BLOOD VITAMIN E-PND
 
Brief Hospital Course:
___ year old female with a past medical history of NPH s/p VP 
shunt, DVT and new pAfib who presented as a transfer from the 
___ for AMS was found to be growing citrobacter 
freundii in urine on outside hospital cultures improving on 
antibiotics. 

# Altered Mental Status: Patient presented with acute on 
subacute altered mental status. Patient with underlying 
cognitive decline which seems to have started in ___, 
and has been followed by Neurosurgery for changes in VP shunt 
settings. However per daughter, ___ last mentioned that 
the VP shunt was functional and that her symptoms were likely 
from dementia. CT head negative at outside hospital and eval by 
Neurosurgery suggesting that patient's VP shunt is in correct 
location, although VP shunt settings unable to be confirmed 
given lack of proper equipment at ___. Patient was 
transferred to hospital for increased lethargy and confusion 
from her baseline. Infectious work up positive for UTI, and so 
this is most likely culprit of new worsened lethargy and 
confusion. 

Currently, patient has been shown to have nl B12, TSH, folate. 
Neurology as consulted for subacute cognitive decline. EEG 
without epileptic changes, only encephalopathy slow waves. RPR, 
B1, B6, Vitamin E, copper are all pending - all causes of 
reversible cognitive decline. Patient's mental status improved 
to baseline from prior to admission after treatment for UTI (see 
below), but still not at normal baseline from 3 months prior. 
Will follow up with Neurology and Neurosurgery for continued 
outpatient work up of the subacute cognitive decline. Follow up 
with Neurosurgeon Dr. ___ ___. Please call 
office on ___ to make appointment. Patient will need an MRI 
Brain and MRI C-spine, however will need Neurosurgery to confirm 
VP shunt settings are working properly after the MRI. MRI to be 
ordered by Dr. ___. Neurology recommends follow up in movement 
disorders clinic at ___. Should call ___ to set up an 
outpatient neurology appointment.

# Citrobacter Freundii Urinary Tract Infection: The S/S (from 
___ were notable to be sensitive to Bactrim and 
Ciprofloxacin. Due to the fact the ceftriaxone used on this 
species can induce resistance, as such will transition to PO 
Bactrim DS BID for ___ipro also known to decrease 
seizure threshold so as such will avoid this agent. Bactrim DS 
BID for 14 day course (___).

# Nutrition: The patient PO intake has significantly  decreased 
as noted by nursing staff. The patient is currently on a 
dysphagia  diet. The cause of the patient's decrease PO intake 
is most likely secondary to her somnolence and cognitive 
decline. On exam, the patient does not seem overall volume down 
or emaciated. Encourage adequate PO hydration and nutrition by 
Rehabilitation staff. 

# Paroxysmal Afib: Per daughter, patient was found to have Afib 
in recent rehabilitation facility. No previous history of this. 
In sinus rhythm now. Has never taken blood thinners for Afib. 
The patient's CHADVAS2 is 4. Consider anticoagulation upon 
discharge or defer to next health care provider 

# DVT: Daughter endorsed this history, however not much detail 
is known. Obtain collateral from outside hospital. Patient kept 
on DVT ppx while in hospital. 

# NPH: Patient has VP shunt in place which per outpatient 
Neurosurgery it is working properly. Of note, per ___ 
Neurosurgery, the type of shunt the patient has in place (Codman 
Certas Programmable Valve) is not one that our neurosurgeons 
have equipment to change. Thus any changes must wait until the 
outpatient setting. Plan for outpatient MRI Brain and C-spine 
and further changes in VP shunt would be based on these images. 

# Anemia: Per ___ records, Hgb ___ in the past ___ years. 
Hgb 10.6 on admission. The most likely cause of the patient's 
anemia is unclear however, anemia of chronic disease is high on 
the differential. Further work-up can be done as an outpatient. 

TRANSITIONAL ISSUES
=====================
[] Follow up on final Vitamin E, B1, B6, RPR and copper
[] Follow up Final CTA Head and Neck though on wet read no acute 
issues and also reviewed by neurology consultant team without 
concern
[] Follow up with Neurology: ___ in the NEUROLOGY 
MOVEMENT DISORDERS CLINIC. Please call on ___ to set up 
appointment. 
[] Follow up with Neurosurgeon Dr. ___ ___. 
Please call office on ___ to make appointment. 
[] Patient will need an MRI Brain and MRI C-spine, however will 
need Neurosurgery to confirm VP shunt settings are working 
properly after the MRI. MRI to be ordered by Dr. ___.
[] Consider Depression as possible culprit for reversible 
cognitive decline
[] Confirm paroxysmal Afib diagnosis; No evidence of atrial 
fibrillation this hospitalization. Consider anticoagulation if 
confirmed and within goals of care. 
[] Continue further Anemia work up. 
#Code: DNI/DNR (MOLST form filled out prior to discharge to 
document this)
#HCP: (Daughter) ___: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath 
2. Alendronate Sodium 70 mg PO QSUN 
3. Aspirin 325 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Calcium Carbonate 1000 mg PO DAILY 
6. Fluticasone Propionate 110mcg 2 PUFF IH BID 
7. Multivitamins 1 TAB PO DAILY 
8. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 11 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*21 Tablet Refills:*0 
2.  Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath  
3.  Alendronate Sodium 70 mg PO QSUN  
4.  Aspirin 325 mg PO DAILY  
5.  Calcium Carbonate 1000 mg PO DAILY  
6.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
7.  Multivitamins 1 TAB PO DAILY  
8.  Omeprazole 20 mg PO DAILY  
9.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
-Urinary Tract Infection

SECONDARY DIAGNOSIS
=====================
-Normal pressure hydrocephalus s/p VP shunt
-Subacute dementia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you at ___. You came to our 
hospital with confusion and lethargy that was worse than your 
usual state. We treated you for a urinary tract infection and 
your symptoms improved. 

We also had Neurology specialists see you to further understand 
your changed mental status.

We wish you the very best,

Your ___ Team 
 
Followup Instructions:
___